US08314087B2
N-(3-(1-(2-(7-Methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridin-3-yl)prop-2-ynyl)-2-(pyrrolidin-1-yl)acetamide
To a 50 mL round bottom flask was charged with the 5-bromo-1-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1H)-one (0.136 g, 0.4 mmol), trans-dichlorobis(triphenyl-phosphine)palladium (II) (0.005 g, 0.007 mmol), and copper(I) iodide (0.0002 ml, 0.007 mmol) along with a magnetic stirring bar and degassed and back-filled three times with N2. Triethylamine (0.2 ml, 1 mmol) was introduced into the reaction flask using a syringe under the gaseous mixture atmosphere. Then N-(prop-2-ynyl)-2-(pyrrolidin-1-yl)acetamide (0.06 g, 0.4 mmol) was added to the reaction flask. After refluxing for 16 hours, the solvent was evaporated and the residue was shaken with 20 mL of saturated aqueous sodium bicarbonate solution and 50 mL of EtOAc. The organic layer was washed with 20 mL of brine and then dried over anhydrous sodium sulfate. The organic solution was concentrated in vacuo and the residue was purified by a Prep-HPLC to give a yellow solid (0.04 g, 24% yield). MS (ESI pos. ion) m/z (MH+): 461.1. Calc'd Exact Mass for C26H28N4O4: 460.21.

reactant | 5-bromo-1-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1H)-one | 0.4 mmol, 0.136 g | BrC=1C=CC(N(C1)CCOC1=CC=NC2=CC(=CC=C12)OC)=O | C17H15BrN2O3
reactant | Triethylamine | 1 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | N-(prop-2-ynyl)-2-(pyrrolidin-1-yl)acetamide | 0.4 mmol, 0.06 g | C(C#C)NC(CN1CCCC1)=O | C9H14N2O
catalyst | trans-dichlorobis(triphenyl-phosphine)palladium (II) | 0.007 mmol, 0.005 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.007 mmol, 0.0002 ml | [Cu]I
product | N-(3-(1-(2-(7-Methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridin-3-yl)prop-2-ynyl)-2-(pyrrolidin-1-yl)acetamide | 0.04 g, 24% yield | COC1=CC=C2C(=CC=NC2=C1)OCCN1C=C(C=CC1=O)C#CCNC(CN1CCCC1)=O | C26H28N4O4
